US07696223B2
a) 2-(2,3-Dihydro-benzofuran-5-yl)-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester
Prepared from 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethy ester, example 81(b), and 2,3-dihydro-1-benzofuran-5-yl-boronic acid under conditions analogous to experimental example 81(c). MS: (+) m/z 541.4 (M+1).

reactant | 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethy ester | C(C)OC(=O)C1=C(N=C(S1)Br)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C20H25BrN2O6S
reactant | 2,3-dihydro-1-benzofuran-5-yl-boronic acid | O1CCC2=C1C=CC(=C2)B(O)O | C8H9BO3
product | 2-(2,3-Dihydro-benzofuran-5-yl)-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)C=1C=CC2=C(CCO2)C1)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C28H32N2O7S
